Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
limb weakness and tingling
 
Major Surgical or Invasive Procedure:
Lumbar Puncture
 
History of Present Illness:
Mr. ___ is a ___ year old right handed gentleman with no
significant past medical history presenting with a three week
history of bilateral hand paresthesias and weakness, bilateral
leg paresthesias and weakness, bilateral calf pain and a 
resolved
three day episode of R facial droop with ptosis.

Mr. ___ was in his normal state of health until the week of
___ when he fell ill with a cold. He continued to go to
work and only noted a runny nose, congestion, and a cough. He
denies any fever, chills, nausea, vomiting, diarrhea illness, 
difficutly breathing, myalgias, or extreme fatigue. These
symptoms lasted for a week. 

On ___, the pt woke up with tingling in his fingers and
palms. He denies ever having this before and tried all day to
alleviate the sensation without success. This continued for 
three
days and evolved on ___ to include pain and weakness in
his calves, all of which prompted him to call his PCP and go in
for an urgent appointment. He was seen by an NP who found his
temperature to be 99.2. Per report, she felt his symptoms were
suggestive of bilateral Carpel Tunnel Syndrome and sent Lyme
serologies, diabetes screening tests, and thyroid function 
tests.
He was also noted to be hypertensive with a SBP greater than 175
on this visit. 

On follow up with his PCP on ___, he noticed that he 
had
difficulty whistling. His wife also felt his R eyelid was 
droopy,
that he was blinking less than usual, and his smile was
assymetric on the R.  His PCP informed him of the negative Lyme,
diabetes, and thyroid tests, but was concerned for stroke in the
setting of his BP of 182/120 and thus sent him to the ___ in ___. At the ___, he had a negative CT, EKG and
"blood work". He was diagnosed with Bell's Palsy, informed that
his calf pain was a mystery and given Prednisone. The next day,
he had follow up with an Angels? ___ NP who agreed with 
the
___'s ___ diagnosis and felt that he was having a "leg 
muscle
problem". The ___, he felt the pain in his leg had
intensified to a burning sensation, non radiating with increased
weakness, paresthesias, and difficulty walking.  He went back to
the ___ where he was evaluated for DVT with a "blood test"
and the negative result persuaded them not to do an ultrasound. 
By this time, he felt his facial palsy was completely resolved. 

___, he felt the tingling in his hands had evolved to
"stinging" pain (___), weakness and numbness with continued
tingling. He felt that he was dropping things all the time and
could not open bottles or button his shirts. His calf pain also
continued and was worsening, thus his PCP gave him an U/s that
was negative and suggested a muscle biopsy, ABI, and EMG.  The
following week, ___, his wife noticed that he appeared 
drunk
when he walked and had to hold on to the wall with each step to
prevent from falling. On ___, he had an ABI and an EMG read
as negative, but while at work, hes legs gave out and he had a
fall complicated by subsequent left hamstring strain. Neurology
follow up was scheduled for ___ and given his history
and progressively worsening symptoms,  he was directly admitted
from clinic to the floor. 
 
On neuro ROS, the pt denies loss of vision, blurred vision,
diplopia, dysphagia, vertigo, or hearing difficulty. Denies
difficulties comprehending speech. No bowel or bladder
incontinence or retention. Denies back pain. 

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash. Denies
tick bite, exposure to toxic chemicals, new medications, or
recent procedure.

 
Past Medical History:
Hiatal hernia in ___
Occasional heartburn

 
Social History:
___
Family History:
He has no family history of autoimmune disease or neurological
disease. Positive FH of diabetes, CVD, HTN, and high 
cholesterol.
 
Physical Exam:
Admission Physical Examination:

Physical Exam: 
Vitals: T: 97.8F  P: 68 R: 14  BP: 127/86  SaO2:  98% RA
General: Awake, cooperative, NAD. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx 
Neck: Supple. No nuchal rigidity 
Pulmonary: Lungs CTA bilaterally without R/R/W 
Cardiac: RRR, nl. S1S2, no M/R/G noted 
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted. 
Extremities: No edema. 2+ radial, DP pulses bilaterally .

Neurologic: 
-Mental Status:  He is alert, oriented x 3 and could describe
historical facts accurately. He is attentive, able to name ___
backward. His language is fluent with intact repetition and
comprehension.  Naming of high and low frequency items is 
intact.
He accurately follows commands and memory is intact with ___
words remembered at 30sec and 5 min. 
 
-Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 3 to 2mm and brisk.  VFF to confrontation. Funduscopic
exam revealed a sharp disck on the right, but the patient's eye
watering prevented visualization of the left.  
III, IV, VI: EOMI without nystagmus.  Normal saccades. 
V: Facial sensation intact to light touch. 
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline.

-Motor: Normal bulk with slight decreased tone in wrist, elbows,
and ___. Slight pronator drift bilaterally.  No adventitious
movements, such as tremor, noted. No asterixis noted.

-Sensory: Deficits pinprick on hands and wrists bilaterally up 
to
elbows. Deficits in the legs starting above the knee to the 
feet,
cold sensation intact. Light touch intact. Intact vibratory
sense, but decreased proprioception at toes. No extinction to
DSS.
 
-DTRs: ___ throughout.  Plantar response was mute.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF  but abnormal HKS bilaterally. RAM slowed on
R side. 

-Gait: Shuffled, narrow-based, with assistance. Unable to 
support
weight without support.  
-Romberg positive.

Discharge Physical Exam: Improved from admission as follows:

CNs: Mild right to left facial asymmetry with right sided 
weakness. 
Motor: Full strength in his upper extremities. In the lower 
extremity his adductors and left hamstring and toe extensors are 
breakable. His right side is full strength. 
Reflexes: Still absent in his ___, but present in his UE L>R (2 
and 1 at left bi and tri, and 1 and 0 on the right bi and tri). 
Sensation: He has a sensory level to pinprick at B/l ankles, the 
knuckles on the left and below the knuckles on the right. 
Coordination: He still has impaired proprioception at his toes, 
but not ankles and fingers. 
Gait: still requires assistance of walker, but improved to one 
assist only. 

 
Pertinent Results:
___ 02:59PM   %HbA1c-5.7 eAG-117
___ 05:11PM CEREBROSPINAL FLUID (CSF)  WBC-0 RBC-0 POLYS-48 
___ ___ 05:11PM CEREBROSPINAL FLUID (CSF)  PROTEIN-72* 
GLUCOSE-60
___ 06:20PM   SED RATE-4
___ 06:20PM   PLT COUNT-256
___ 06:20PM   NEUTS-66.1 ___ MONOS-4.0 EOS-3.2 
BASOS-0.7
___ 06:20PM   WBC-9.8 RBC-5.03 HGB-15.3 HCT-43.7 MCV-87 
MCH-30.3 MCHC-34.9 RDW-13.9
___ 06:20PM   PEP-NO SPECIFI IgA-386
___ 06:20PM   CRP-4.8
___ 06:20PM   ___ * TITER-1:80
___ 06:20PM   TSH-2.3
___ 06:20PM   VIT B12-410
___ 06:20PM   TOT PROT-6.1* CALCIUM-9.3 PHOSPHATE-2.5* 
MAGNESIUM-1.9
___ 06:20PM   ALT(SGPT)-31 AST(SGOT)-21 ALK PHOS-48 TOT 
BILI-0.4
___ 06:20PM   GLUCOSE-105* UREA N-18 CREAT-0.8 SODIUM-142 
POTASSIUM-3.9 CHLORIDE-105 TOTAL CO2-24 ANION GAP-17
___ 08:41PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 
LEUK-NEG
___ 08:41PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 08:41PM URINE  U-PEP-NO PROTEIN
.
Imaging Studies: 
.
1. Chest PA and Lateral (___)
FINDINGS: Normal lung volumes. Normal size of the cardiac 
silhouette.
Normal hilar and mediastinal contours. No evidence of pneumonia, 
pleural
effusion, or pulmonary edema.
. 
2. MR ___ Spine Without ___
FINDINGS:
Lumbar vertebrae appear normal in height and alignment. There is 
diffusely
and mildly heterogeneous marrow signal intensity seen involving 
the vertebral bodies, which may represent heterogeneous fatty 
infiltration, marrow reconversion secondary to anemia or may 
also be seen in marrow infiltrative disorders. The spinal cord 
terminates at the upper L1 level. Conus medullaris and cauda 
equina have normal morphologies and signal intensities. Pre- and 
paravertebral soft tissues are unremarkable.
 
At T12-L1, L1-L2, L2-L3, there is no disc herniation, spinal 
canal or neural foraminal narrowing. Small anterior osteophytes 
are noted at multiple levels with mixed ___ changes at the 
___ aspect of T12.
 
At L3-L4, there is mild diffuse disc bulge, but no significant 
spinal canal or neural foraminal narrowing.
 
At L4-L5, there is disc bulge with posterior annular tear and 
shallow
protrusion with no significant spinal canal or left neural 
foraminal
narrowing; mild right foraminal narrowing. Mild bilateral facet 
joint
effusions are noted.
 
At L5-S1, there is no disc herniation, spinal canal or neural 
foraminal
narrowing.
. 
IMPRESSION:
1. Diffusely and mildly heterogeneous bone marrow signal 
intensity may
reflect heterogeneous fatty marrow infiltration/marrow 
reconversion. Please
correlate with hematology labs for anemia/infiltrative 
disorders.
.
2. Mild degenerative changes in the lumbar spine involving the 
discs and
facets without significant spinal canal or neural foraminal 
narrowing.
.
3. Prominent epidural fat is noted circumferentially in the 
lumbosacral region effacing the CSF space and deforming the 
thecal sac. 
 
Brief Hospital Course:
Mr. ___ is a ___ yo generally healthy gentleman who presented 
with subacute, progressive limb weakness and paresthesias in a 
peripheral distribution following an upper respiratory illness. 
His pattern of weakness were consistent with a variant of Acute 
Inflammatory Demyelinating Polyradiculopathy (AIDP or 
___. 

The patient received a lumbar puncture which demonstrated 
albuminocytologic dissociation providing further evidence for 
AIDP. He was started on IVIG and received 5 doses. He improved 
on a daily basis and tolerated the IVIG well. He was seen by ___ 
throughout and his pain was controlled with Gabapentin. His 
respiratory effort was also monitored with NIF's and vital 
capacities daily and was never concerning. 

Mr ___ was discharged in good condition. ___ felt he would do 
well at home with a walker and home ___. He was sent with a 
prescription for Gabapentin and a follow-up appointment with Dr. 
___.  
 
Medications on Admission:
Prilosec OTC once a month
Metoprolol XR 75mg (since ___
Percocet 5mg (since ___

 
Discharge Medications:
1. gabapentin 300 mg Capsule Sig: Two (2) Capsule PO TID (3 
times a day) for 1 months.
Disp:*180 Capsule(s)* Refills:*1*
2. metoprolol succinate 50 mg Tablet Extended Release 24 hr Sig: 
1.5 Tablet Extended Release 24 hrs PO DAILY (Daily).  
3. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute Inflammatory Polyneuropathy (AIDP)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Neuro: Mild right to left facial asymmetry with right sided 
weakness. Full strength in his upper extremities. In the lower 
extremity his adductors and left hamstring and toe extensors are 
breakable. His right side is full strength. His reflexes are 
still absent in his ___, but present in his UE L>R (2 and 1 at 
left bi and tri, and 1 and 0 on the right bi and tri). He has a 
sensory level to pinprick at B/l ankles, the knuckles on the 
left and below the knuckles on the right. He still has impaired 
proprioception at his toes, but not ankles and fingers. 

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the ___ due to 
limb numbness and weakness. You had a lumbar puncture that 
showed high protein and low cells. You were diagnosed with an 
acute inflammatory demyelinating process (AIDP, also known as 
___ or variant). You were started on treatment with 
IVIG which you tolerated well. Your symptoms have improved with 
the daily IVIG and physical therapy. You will be discharged to 
home and will continue physical therapy. 

Please follow up with your PCP ___ within the next 2 
weeks.

On admission, you were taking the following medications: 
Prilosec OTC once a month
Metoprolol XR 75mg (since ___
Percocet 5mg (since ___

Please STOP: Percoset
Please START: Gabapentin 600 mg TID while continuing to have 
pain. 

 
Followup Instructions:
___